US08975282B2
1,5-dimethyl-N-(4-((2-(3-methylureido)pyridin-4-yl)oxy)phenyl)-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
A mixture of phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)pyridin-2-yl)carbamate (100 mg, 0.187 mmol), NMP (3 mL) and methylamine solution (25%, 0.2 mL) was heated at 40° C. overnight. The solvent was evaporated under reduced pressure at 40° C., and then diluted with water (10 mL). The precipitate was collected by filtration, and then purified by a silica gel column chromatography (DCM/EtOAc/MeOH (v/v/v)=1/1/0.01) to give the title compound as a white solid (46 mg, 52%).

reactant | phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)pyridin-2-yl)carbamate | 0.187 mmol, 100 mg | CN1N(C(C(=C1C)C(=O)NC1=CC=C(OC2=CC(=NC=C2)NC(OC2=CC=CC=C2)=O)C=C1)=O)C1=CC=CC=C1 | C30H25N5O5
reactant | methylamine | 0.2 mL | CN | CH5N
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | 1,5-dimethyl-N-(4-((2-(3-methylureido)pyridin-4-yl)oxy)phenyl)-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 46 mg, 52% | CN1N(C(C(=C1C)C(=O)NC1=CC=C(C=C1)OC1=CC(=NC=C1)NC(=O)NC)=O)C1=CC=CC=C1 | C25H24N6O4
